US05342846
7-[cis-3-Amino-4-(1,2,3-triazol-1-yl)-pyrrolidin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (44 mg, 0.156 mmol) and cis-3-amino-4-(1,2,3-triazol-1-yl)pyrrolidine (60 mg, 0.39 mmol) in pyridine (5 ml) was heated at 110° C. for 2-3 h under nitrogen and then stirred at room temperature for 20 h. The reaction mixture was concentrated and the residue was washed with water and acetonitrile. The solid was dried under vacuum at 40° C. Yield: 43 mg (66%), m.p. 245°-47° C. 1H NMR (TFA) δ: 1.3-1.8 (m, 4H), 4.4-5.25 (m, 6H), 6.40 (m, 1H), 8.15 (d, 1H), 8.62 (s, 1H), 8.90 (s, 1H), 9.40 (s, 1H).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.156 mmol, 44 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | cis-3-amino-4-(1,2,3-triazol-1-yl)pyrrolidine | 0.39 mmol, 60 mg | N[C@@H]1CNC[C@@H]1N1N=NC=C1 | C6H11N5
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 7-[cis-3-Amino-4-(1,2,3-triazol-1-yl)-pyrrolidin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | N[C@@H]1CN(C[C@@H]1N1N=NC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C19H18F2N6O3
